Test Inverter
* V Gate
V1 3 0 0.8
* VDD
V2 1 0 pulse (0 5 0 9u 9u 2u 20u)


* Mnumber d g s b model W=w L=l 
M1 2 3 0 0 NMOS W=100u L=1u
R1 1 2 1




.tran 1u 20u